US04824848
7-Benzyl-5-butyl-2-methyl-3-methylamino-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 7-benzyl-5-butyl-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (1.5 g, 4.58 mM), methyl iodide (0.48 ml, 6 mM) and potassium carbonate (0.82 g, 6 mM) was stirred at room temperature for 12 hours. The mixture was concentrated to dryness and the residue was extracted with chloroform and water. The organic layer was washed with water, dried (MgSO4) and concentrated to dryness to give a solid. Recrystallization from 80% ethanol gave colorless needles (0.88 g, 50%), m.p. 146°-148° C.

reactant | 7-benzyl-5-butyl-3-methylaminopyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 4.58 mM, 1.5 g | C(C1=CC=CC=C1)N1C(N(C(C2=C1NN=C2NC)=O)CCCC)=O | C17H21N5O2
reactant | methyl iodide | 6 mM, 0.48 ml | CI | CH3I
reactant | potassium carbonate | 6 mM, 0.82 g | C([O-])([O-])=O.[K+].[K+]
product | 7-Benzyl-5-butyl-2-methyl-3-methylamino-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.88 g, 50% | C(C1=CC=CC=C1)N1C(N(C(C=2C1=NN(C2NC)C)=O)CCCC)=O | C18H23N5O2
